US07078405B2
Ethyl 8-methoxy-2-(methylsulfanyl)imidazo[1,2-a]pyrazine-3-carboxylate
Ethyl bromoacetate (18.5 mL) and iso-dipropylethylamine (29 mL) were added to a solution of methyl N-(3-methoxy-2-pyrazinyl)-(methylsulfanyl)methaneimidothioate (19.1 g) in acetonitrile (42 mL), and the mixture was heated under stirring at 100° C. for 14 hours. After the reaction mixture was cooled to room temperature, water was added thereto, which was extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate, and evaporated. The resulting residue was washed with n-hexane to give the title compound (10.7 g) as pale yellow crystals.

reactant | Ethyl bromoacetate | 18.5 mL | BrCC(=O)OCC | C4H7BrO2
reactant | methyl N-(3-methoxy-2-pyrazinyl)-(methylsulfanyl)methaneimidothioate | 19.1 g | COC=1C(=NC=CN1)N=C(SC)SC | C8H11N3OS2
reactant | water | O | H2O
solvent | acetonitrile | 42 mL | C(C)#N | C2H3N
product | Ethyl 8-methoxy-2-(methylsulfanyl)imidazo[1,2-a]pyrazine-3-carboxylate | 10.7 g | COC=1C=2N(C=CN1)C(=C(N2)SC)C(=O)OCC | C11H13N3O3S
